* Subcircuit 2bit_DAC
.subckt 2bit_DAC /vdd /vrefh /vrefl /d0 /d1 /vout net-_s1-pad7_ /d1_buf 
* c:\fossee\esim\library\subcircuitlibrary\2bit_dac\2bit_dac.cir
r1  /vrefh net-_r1-pad2_ resistor
s1  /vdd /d0 /vrefl net-_r1-pad2_ net-_s1-pad5_ net-_s1-pad6_ net-_s1-pad7_ switch_2n
s2  /vdd /d1 net-_s1-pad6_ net-_s1-pad5_ /vout /d1_buf switch
* Control Statements

.ends 2bit_DAC